US08791147B2
To a solution of LDA (11 mL of a 2 M in heptane/THF/ethylbenzene, 22 mmol) in THF (30 mL) at −78° C. was added a solution 2,5-dichloropyridine (3.3 g, 22 mmol) in THF (20 mL) at −78° C. The reaction mixture was stirred at −78° C. for 1 h, and a solution of iodine (5.6 g, 22 mmol) in THF (20 mL) was added. The reaction mixture was stirred for 15 min, quenched with water, and warmed to rt. The reaction mixture was diluted with EtOAc, washed with water (1×), saturated Na2S2O3 (1×), brine (1×), dried over MgSO4, filtered, and concentrated. The crude reaction mixture was dissolved in dichloromethane (˜50 mL), diluted with hexanes (˜100 mL), and concentrated to a volume of ˜100 mL. The solid was collected by filtration, and washed with hexanes to give 2,5-dichloro-4-iodopyridine.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2,5-dichloropyridine | 22 mmol, 3.3 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | iodine | 22 mmol, 5.6 g | II | I2
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ˜50 mL | ClCCl | CH2Cl2
product | 2,5-dichloro-4-iodopyridine | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
